US04707488
G: 3-(3,5-Difluorophenyl)propyl Isothiocyanate
A solution of 3-(3,5-difluorophenyl)propylamine (0.0327 mol) and triethylamine (0.072 mol) in tetrahydrofuran (20 ml) was added dropwise to a solution of thiophosgene (0.0392 mol) in tetrahydrofuran at 0°. The reaction was stirred 2 hours at room temperature then ethyl ether was added and the mixture filtered. The filtrate was concentrated and distilled (Kugelrohr) to yield 3.8 g (55%) of a yellow oil.

reactant | 3-(3,5-difluorophenyl)propylamine | 0.0327 mol | FC=1C=C(C=C(C1)F)CCCN | C9H11F2N
reactant | triethylamine | 0.072 mol | C(C)N(CC)CC | C6H15N
reactant | thiophosgene | 0.0392 mol | C(=S)(Cl)Cl | CCl2S
reactant | ethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-(3,5-Difluorophenyl)propyl Isothiocyanate | 3.8 g, 55% | FC=1C=C(C=C(C1)F)CCCN=C=S | C10H9F2NS
